US08304557B2
tert-butyl [5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]carbamate
To a solution of tert-butyl {5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-methylphenyl}carbamate (3.52 g, 8.92 mmol) in N,N-dimethylacetamide (30 mL) was added cyclopropanecarbonyl chloride (0.811 mL, 8.93 mmol) at 0° C., and the mixture was stirred at room temperature for 84 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=100/0→425/75) to give the title compound (3.87 g, 97%) as a colorless oil.

reactant | tert-butyl {5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-methylphenyl}carbamate | 8.92 mmol, 3.52 g | NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(OC(C)(C)C)=O)C)=N1 | C18H21N5O3
reactant | cyclopropanecarbonyl chloride | 8.93 mmol, 0.811 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | N,N-dimethylacetamide | 30 mL | CN(C(C)=O)C | C4H9NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | tert-butyl [5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]carbamate | 3.87 g, 97% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(OC(C)(C)C)=O)C)=N1 | C22H25N5O4
